US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) was treated with cyclopropylamine following general procedure B to afford 4-cyclopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (200 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (170 mg) following general procedure E. The above ethylamide (0.6 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1-cyclopropyl-3-ethyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (15 mg). LCMS: m/z 312 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 4-cyclopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 200 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CC1)OC | C16H18N2O3
